US05455363
H-Gln(Mtt)OH
A suspension of 107.3 g Z-Gln(Mtt)OH (200 mM) in 800 ml methanol and 200 ml IN hydrochloric acid is hydrogenated at room temperature and normal pressure in the presence of 0.4 g palladium on carbon (10%) catalyst. On completion of the hydrogen uptake the catalyst is filtered off, washed with methanol and the filtrate, after addition of 27.9 ml triethylamine (200 mM) and 200 ml water, concentrated to a volume of about 600 ml. The formed crystalline precipitate is filtered off and washed with water until the washings are chloride-free. The obtained H-Gln(Mtt)OH contains 0.5-1 mole water and decomposes slowly above 231° C. Yield 85%.

reactant | Z-Gln(Mtt)OH | 200 mM, 107.3 g | N([C@@H](CCC(NC(C1=CC=C(C)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C33H32N2O5
reactant | water | 0.5-1 mole | O | H2O
solvent | methanol | 800 ml | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | H-Gln(Mtt)OH | Yield 85% | N[C@@H](CCC(NC(C1=CC=C(C)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C25H26N2O3
